US06518423B1
10H-Pyrazino[2,3-b][1,4]benzothiazine-8-acetonitrile
To 50 ml of a solution of 5 g of 8-(chloromethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine in dimethyl sulfoxide was added 0.92 g of sodium cyanide and the resulting mixture was reacted at 60° C. for 1 hour. After adding ethyl acetate, the organic layer was washed with water and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, 4.7 g of the title compound was obtained as a yellow solid.

reactant | 8-(chloromethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine | 5 g | ClCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C11H8ClN3S
reactant | sodium cyanide | 0.92 g | [C-]#N.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 10H-Pyrazino[2,3-b][1,4]benzothiazine-8-acetonitrile | 4.7 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CC#N | C12H8N4S
